US03966942
As described in Example 1, triethylorthophenylacetate is reacted with 3-(4'-chlorophenyl)-rhodanine in acetic anhydride for 12 hours to yield 3-(4'-chlorophenyl)-5-(1'-ethoxy-2'-phenylethylidene)-rhodanine. To a suspension of the latter (15 g., 0.0385 m.) in 100 ml. of dioxane and 100 ml. of water is added 22 ml. of 10% sodium hydroxide solution. The mixture is stirred at room temperature for 3 hours, concentrated in vacuo at 40°-40°C. and the remaining solution is washed with ether, then decolorized. The aqueous layer is acidified with dilute hydrochloric acid and the precipitate is taken up in methylene chloride. The latter solution (after being washed with water and dried) is evaporated in vacuo. The residue is dissolved in 10% sodium hydroxide and water, washed with ether and acidified with dilute hydrochloric acid to give 3-(4'-chlorophenyl)-5-(1'-hydroxy-2'-phenylethylidene)-rhodanine, m.p. 134°-137°C.

reactant | 3-(4'-chlorophenyl)-rhodanine | ClC1=CC=C(C=C1)N1C(SCC1=O)=S | C9H6ClNOS2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(4'-chlorophenyl)-5-(1'-ethoxy-2'-phenylethylidene)-rhodanine | ClC1=CC=C(C=C1)N1C(SC(C1=O)=C(CC1=CC=CC=C1)OCC)=S | C19H16ClNO2S2
